US07141586B2
2-Chloro-5-fluoro-N-(trans-4-hydroxy-cyclohexyl)-nicotinamide (150 mg, 0.55 mmol), 4-methylsulfanyl-phenol (77 mg, 0.55 mmol) and caesium carbonate (358 mg, 1.10 mmol) were suspended in DMF (2 ml) and the reaction was heated to 55° C. and stirred at this temperature under nitrogen for 18 h. The reaction was quenched with sat. ammonium chloride solution (1.5 ml) and water (1.5 ml) and the organic phase was collected by passing the mixture through a chemelute cartridge, washing with ethyl acetate. The solvent was removed on a Genevac™ and the residue was purified by flash column chromatography on silica gel eluting with a solvent gradient of dichloromethane:methanol (100:0 changing to 96:4, by volume) to give 5-fluoro-N-(trans-4-hydroxy-cyclohexyl)-2-(4-methylsulfanyl-phenoxy)-nicotinamide (81 mg) as an off-white foam.

reactant | 2-Chloro-5-fluoro-N-(trans-4-hydroxy-cyclohexyl)-nicotinamide | 0.55 mmol, 150 mg | ClC1=C(C(=O)N[C@@H]2CC[C@H](CC2)O)C=C(C=N1)F | C12H14ClFN2O2
reactant | 4-methylsulfanyl-phenol | 0.55 mmol, 77 mg | CSC1=CC=C(C=C1)O | C7H8OS
reactant | caesium carbonate | 1.10 mmol, 358 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-fluoro-N-(trans-4-hydroxy-cyclohexyl)-2-(4-methylsulfanyl-phenoxy)-nicotinamide | 81 mg | FC=1C=NC(=C(C(=O)N[C@@H]2CC[C@H](CC2)O)C1)OC1=CC=C(C=C1)SC | C19H21FN2O3S
